US06642418B1
Preparation of 3-Cyclopropyl-1-(4-fluoro-3-methoxy-2-methylthiophenyl)propane-1,3-dione
A solution of 3-cyclopropyl-1-(4-fluoro-3-methoxy-2-methylthiophenyl)-2-methoxycarbonyl-propane-1,3-dione (0.15 g) in a mixture of acetonitrile/water (95:5) containing 3 drops of hydrochloric acid (2M) was heated at reflux for 44 hours, cooled, dried (magnesium sulphate) and evaporated to give the title compound (0.08 g), NMR 0.9 (m, 2H), 1.1 (m, 2H), 1.65 (m, 1H), 2.37 (s, 3H), 3.96 (s, 3H), 4.15 (s, 1H), 5.9 (s, 1H), 6.95-7.15 (m, 2H).

reactant | 3-cyclopropyl-1-(4-fluoro-3-methoxy-2-methylthiophenyl)-2-methoxycarbonyl-propane-1,3-dione | 0.15 g | C1(CC1)C(C(C(=O)C1=C(C(=C(S1)C)OC)F)C(=O)OC)=O | C14H15FO5S
solvent | acetonitrile water | C(C)#N.O
catalyst | hydrochloric acid | 2M, 3 drops | Cl | ClH
product | 3-Cyclopropyl-1-(4-fluoro-3-methoxy-2-methylthiophenyl)propane-1,3-dione | 0.08 g | C1(CC1)C(CC(=O)C1=C(C(=C(S1)C)OC)F)=O | C12H13FO3S
